US08871738B2
To a solution of 5-bromo-4-methylpyridine-2-carboxylic acid methyl ester (2.207 g, 9.59 mmol), 4-methoxylphenylboronic acid (1.604 g, 10.55 mmol) and 1,1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride (0.313 g, 0.480 mmol) in THF (30 mL) was added potassium carbonate (2.0 M in water, 10.1 mL, 20.15 mmol). The mixture was purged with nitrogen and heated at 50° C. for 1 hour and at 60° C. for 5 hours. The reaction was poured into ethyl acetate and was washed with brine, dried over sodium sulfate, filtered and concentrated. It was purified by column chromatography to yield methyl 5-(4-methoxyphenyl)-4-methylpyridine-2-carboxylate (2.47 g, 9.59 mmol) as a pink solid. MS ESI calc'd. for C15H16NO3 [M+H]+ 258.1. found 258.1.

reactant | 5-bromo-4-methylpyridine-2-carboxylic acid methyl ester | 9.59 mmol, 2.207 g | COC(=O)C1=NC=C(C(=C1)C)Br | C8H8BrNO2
reactant | 4-methoxylphenylboronic acid | 10.55 mmol, 1.604 g | O(C)C1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 20.15 mmol, 2.0 M, 10.1 mL | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | 1,1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride | 0.480 mmol, 0.313 g | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | methyl 5-(4-methoxyphenyl)-4-methylpyridine-2-carboxylate | 9.59 mmol, 2.47 g | COC1=CC=C(C=C1)C=1C(=CC(=NC1)C(=O)OC)C | C15H15NO3
